US07345178B2
A solution of 3-nitrobenzoyl chloride (3.339 g, 18.0 mmol) in pyridine (54.0 mL) was added dropwise to a solution of 3-amino-4-hydroxypyridine (2.376 g, 21.6 mmol) in pyridine (36.0 mL) at 10° C. and the resultant mixture was stirred overnight. Na2CO3 (1.145 g, 10.8 mmol) was added and the mixture was stirred for 1 h. The solid was collected by filtration, washed with 10% HOAc (30 mL×3) and water (30 mL×3), and dried under vacuo to afford N-(4-hydroxypyridin-3-yl)-3-nitrobenzamide as yellow solid (3.70 g, yield: 66%). 1H-NMR (400 MHz, DMSO-dB6B) δ: 6.34 (1H, d, J=7.2 Hz), 7.74 (1H, d, J=8.0 Hz), 7.84 (1H, t, J=8.0 Hz), 8.34 (1H, d, J=7.2 Hz), 8.44 (1H, t, J=8.0 Hz), 8.66 (1H, s), 8.73 (1H, s), 9.66 (1H, s), 11.65 (1H, br s); MS (ESI) calcd. for C12H9N3O4 (m/z): 259, found: 260 [M+1]+.

reactant | 3-nitrobenzoyl chloride | 18.0 mmol, 3.339 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | 3-amino-4-hydroxypyridine | 21.6 mmol, 2.376 g | NC=1C=NC=CC1O | C5H6N2O
reactant | Na2CO3 | 10.8 mmol, 1.145 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | pyridine | 54.0 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 36.0 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-hydroxypyridin-3-yl)-3-nitrobenzamide | 3.70 g, yield: 66% | OC1=C(C=NC=C1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C12H9N3O4
